US07138425B2
a) 2-(3-Amino-4-methoxyphenyl)-6-methylbenzoxazole
Prepared by the method of Example 1a), from 2-amino-5-methylphenol (368 mg, 2.9 mmol) and 4-methoxy-3-aminobenzoic acid (500 mg, 2.9 mmol) the subtitle compound was obtained, 75 mg (10%). 1H NMR (CDCl3) δ 7.69–7.58(m, 4H), 7.35(bs, 1H), 6.92(d, J=7.9 Hz), 3.85(s, 3H), 2.51(s, 3H). MS 255 m/z (M+H)+.

reactant | 2-amino-5-methylphenol | 2.9 mmol, 368 mg | NC1=C(C=C(C=C1)C)O | C7H9NO
reactant | 4-methoxy-3-aminobenzoic acid | 2.9 mmol, 500 mg | COC1=C(C=C(C(=O)O)C=C1)N | C8H9NO3
product | 2-(3-Amino-4-methoxyphenyl)-6-methylbenzoxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=CC(=C2)C | C15H14N2O2
